US04751223
N,N-Dimethyl-7-ethoxycarbonyl-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine-6-propanamine hydrochloride
A stirred solution of 6.1 g of N,N-dimethyl-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine-6-propanamine in 100 ml of chloroform was treated at room temperature with 2.1 ml of ethyl chloroformate. A thick solid precipitated out of solution within 5 minutes. After stirring the mixture for 4.5 hours at room temperature under nitrogen, another 50 ml of chloroform was added and the mixture was refluxed overnight. TLC at this point showed the reaction to be about half complete, with some solid still undissolved. Dilution with 500 ml of chloroform and overnight reflux produced an improvement in the proportion of product. After addition of another 0.38 ml of ethyl chloroformate and 3 more hours of reflux, the mixture was cooled to room temperature, poured into a separatory funnel, and washed with water (2×100 ml) to remove unreacted starting material as the hydrochloride salt. The chloroform phase was washed with 200 ml of saturated sodium chloride solution and thereafter dried over anhydrous sodium sulfate. Filtration of the mixture and concentration of the filtrate in vacuo afforded 4.7 g of a gum which TLC showed to be a product essentially free of unreacted starting material. This material was dissolved in 150 ml of ether, gravity-filtered to remove insoluble material, and the filtrate was concentrated in vacuo to a gum weighing 4.07 g. This material was taken up in 50 ml of ether and filtered, and hydrogen chloride-saturated ether was added to the filtrate. Crude hydrochloride formed as a gum which was solidified by decanting the liquid, rinsing twice with fresh ether and triturating with a third portion of fresh ether. Filtration and drying in vacuo afforded 3.62 g of solid. Recrystallization twice from absolute ethanol/ether afforded 2.25 g of solid, m.p. 201°-204° dec.

reactant | N,N-dimethyl-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine-6-propanamine | 6.1 g | CN(CCCC1NC2=C(N3C4=C1C=CC=C4CC3)C=CC=C2)C | C20H25N3
reactant | ethyl chloroformate | 2.1 ml | ClC(=O)OCC | C3H5ClO2
reactant | ethyl chloroformate | 0.38 ml | ClC(=O)OCC | C3H5ClO2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | N,N-Dimethyl-7-ethoxycarbonyl-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine-6-propanamine hydrochloride | 4.7 g | Cl.CN(CCCC1N(C2=C(N3C4=C1C=CC=C4CC3)C=CC=C2)C(=O)OCC)C | InChI=1S/C23H29N3O2.ClH/c1-4-28-23(27)26-19(13-8-15-24(2)3)18-10-7-9-17-14-16-25(22(17)18)20-11-5-6-12-21(20)26;/h5-7,9-12,19H,4,8,13-16H2,1-3H3;1H
